US06004826
Preparation of N-(2-bromoethyl) Phthalimide
Potassium phthalimide (30.8 g, 0.17 M) is stirred at room temperature for 48 hours with 1,2-dibromoethane (63.9 g, 0.34 M) and dry DMF (374 ml). (DMF is dimethyl formamide.) The precipitated KBr is filtered off, and the liquids are removed from the filtrate by distillation. The brown solid residue is recrystallized from cyclohexane-heptane (10:1) to give nearly colorless crystals (32.3 g, 72.3%, m.p. 73-75° C.).

reactant | Potassium phthalimide | 0.17 M, 30.8 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,2-dibromoethane | 0.34 M, 63.9 g | BrCCBr | C2H4Br2
solvent | DMF | 374 ml | CN(C)C=O | C3H7NO
product | N-(2-bromoethyl) Phthalimide | 32.3 g, 72.3% | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
